US07524840B2
(2-amino-4-fluoro-5-methoxyphenyl)-(2-chlorophenyl)-methanone (Xdd) was prepared by reacting 2-chlorobenzaldehyde with 0.0223 moles of 3-fluoro-4-methoxy aniline in a manner analogous to Example 1. MH+/Z=280.

reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3-fluoro-4-methoxy aniline | 0.0223 moles | FC=1C=C(N)C=CC1OC | C7H8FNO
product | (2-amino-4-fluoro-5-methoxyphenyl)-(2-chlorophenyl)-methanone | NC1=C(C=C(C(=C1)F)OC)C(=O)C1=C(C=CC=C1)Cl | C14H11ClFNO2
